US06355796B1
Preparation of 2′,4′-Difluoro-2-methoxy-5-methyl-5′-nitrobenzophenone
A mixture of aluminum chloride (62.3 g, 0.467 mol) and methylene chloride is cooled to −20° C. to −10° C., treated with 4-methylanisole (60.1 g, 0.492 mol), treated dropwise with a mixture of 2,4-difluoro-5-nitrobenzoyl chloride (111 g, 0.468 mol) and methylene chloride over a 10 minute period, warmed to 0° C., stirred overnight at ambient temperature, slowly poured onto ice with stirring, and diluted with methylene chloride. The organic layer is washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to a solid. The solid is recrystallized from acetonitrile to afford the title compound as a yellow solid (82.1 g, 54.0%) which is identified by NMR spectral analysis.

reactant | aluminum chloride | 0.467 mol, 62.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methylanisole | 0.492 mol, 60.1 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | 2,4-difluoro-5-nitrobenzoyl chloride | 0.468 mol, 111 g | FC1=C(C(=O)Cl)C=C(C(=C1)F)[N+](=O)[O-] | C7H2ClF2NO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2′,4′-Difluoro-2-methoxy-5-methyl-5′-nitrobenzophenone | 82.1 g, 54.0% | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])C(C1=C(C=CC(=C1)C)OC)=O | C15H11F2NO4
